US04707483
Following the general procedure of Example 2, 7-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine maleate is acetylated and treated with chlorosulfonic acid followed by thionyl chloride to give 3-acetyl-8-chlorosulfonyl-7-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 7-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine maleate | C(\C=C/C(=O)O)(=O)O.COC1=CC2=C(C(CNCC2)C2=CC=CC=C2)C=C1
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-acetyl-8-chlorosulfonyl-7-methoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(C(C1)C1=CC=CC=C1)C=C(C(=C2)OC)S(=O)(=O)Cl | C19H20ClNO4S
